US08859553B2
Step 4. 3-Iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl) phenyl)benzamide
3-Iodo-4-methylbenzoyl chloride (1.06 g, 3.8 mmol), prepared from the reaction of 3-iodo-4-methylbenzoic acid and SOCl2, was added to a solution of 4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)aniline (1.00 g, 3.6 mmol), Et3N (0.36 g 3.6 mmol), and a catalytic amount of DMAP in THF (20 mL). After stirring at rt for 2 hrs, the reaction was quenched with water. EtOAc was added and the layers separated. The combined organic layers were concentrated to dryness and purified by silica gel chromatography (eluent: 5% MeOH in CH2Cl2, MeOH was added 0.5% Et3N) to provide the desired product as an off-white solid (67.2%, 1.25 g). 1H NMR (300 MHz, CDCl3) δ: 8.29 (1H, s), 8.00 (1H, s), 7.85 ((1H, m), 7.73-7.76 ((2H, m), 7.31-7.34 ((1H, d, J=9.0 Hz), 3.64 (2H, s), 2.53 (8H, brs), 2.49 (3H, s), 2.33 (3H, s).

reactant | 3-Iodo-4-methylbenzoyl chloride | 3.8 mmol, 1.06 g | IC=1C=C(C(=O)Cl)C=CC1C | C8H6ClIO
reactant | 3-iodo-4-methylbenzoic acid | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | 4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)aniline | 3.6 mmol, 1.00 g | CN1CCN(CC1)CC1=C(C=C(N)C=C1)C(F)(F)F | C13H18F3N3
reactant | Et3N | 3.6 mmol, 0.36 g | CCN(CC)CC | C6H15N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl) phenyl)benzamide | 1.25 g, 67.2% | IC=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=CC1C | C21H23F3IN3O
